US08871753B2
Step A: tert-Butyl {3-[(3-nitrobenzoyl)amino]phenyl}carbamate
To a stirring solution of tert-butyl (3-aminophenyl)carbamate (2.00 g, 9.6 mmol) and triethylamine (1.40 mL, 10 mol) in dry tetrahydrofuran (27.3 mL) at 0° C. was slowly added a solution of 3-nitrobenzoyl chloride (1.87 g, 10.1 mmol) in tetrahydrofuran (7.8 mL). The resulting mixture was slowly warmed up to rt and stirred for one additional hour at rt. The reaction mixture was treated with Na2CO3 (aq). The aqueous layer was extracted with EtOAc three times. The combined organic layers were dried, filtered and concentrated to give the desired product as a white powder (3.4 g, 99%). LCMS for C18H19N3O5 (M-tBu+H)+: m/z=302.0. 1H NMR (400 MHz, CD3OD): δ 8.79 (t, J=2.0 Hz, 1H), 8.43 (ddd, J=8.0, 2.0, 1.2 Hz, 1H), 8.31 (ddd, J=6.4, 2.4, 1.2 Hz, 1H), 7.87 (t, J=2.1 Hz, 1H), 7.77 (t, J=8.0 Hz, 1H), 7.60 (ddd, J=8.0, 4.0, 2.4, 1H), 7.25 (t, J=8.0 Hz, 1H), 7.19 (d, J=1.2 Hz, 1H), 1.52 (s, 9H).

reactant | tert-butyl (3-aminophenyl)carbamate | 9.6 mmol, 2.00 g | NC=1C=C(C=CC1)NC(OC(C)(C)C)=O | C11H16N2O2
reactant | triethylamine | 10 mol, 1.40 mL | C(C)N(CC)CC | C6H15N
reactant | 3-nitrobenzoyl chloride | 10.1 mmol, 1.87 g | [N+](=O)([O-])C=1C=C(C(=O)Cl)C=CC1 | C7H4ClNO3
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 27.3 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 7.8 mL | O1CCCC1 | C4H8O
product | tert-Butyl {3-[(3-nitrobenzoyl)amino]phenyl}carbamate | 3.4 g, 99% | [N+](=O)([O-])C=1C=C(C(=O)NC=2C=C(C=CC2)NC(OC(C)(C)C)=O)C=CC1 | C18H19N3O5
